US06512123B2
8-(9H-Carbazol-4-yloxy)-octanoic Acid Hydroxyamide
In a manner anologous to that of example 1(c), 8-(9H-Carbazol-4-yloxy)-octanoic acid benzyloxyamide (300 mg, 0.7 mmol) was hydrogenated in the presence of palladium on barium sulfate to give the title compound (110 mg) in 46% yield as an amorphous solid. MS (M−H+)=339.

reactant | 8-(9H-Carbazol-4-yloxy)-octanoic acid benzyloxyamide | 0.7 mmol, 300 mg | C(C1=CC=CC=C1)ONC(CCCCCCCOC1=CC=CC=2NC3=CC=CC=C3C12)=O | C27H30N2O3
catalyst | palladium on barium sulfate | [Pd] | Pd
product | 8-(9H-Carbazol-4-yloxy)-octanoic Acid Hydroxyamide | 110 mg, 46% yield | ONC(CCCCCCCOC1=CC=CC=2NC3=CC=CC=C3C12)=O | C20H24N2O3
